US08067420B2
A mixture of 3-hydroxy-1-(4-(2-hydroxy-2-methylpropoxy)-3-methylphenyl)pyrazin-2(1H)-one (100 mg, 0.344 mmol), PyBOP (314 mg, 0.603 mmol) and EtN(iPr)2 (0.180 mL, 1.033 mmol) in DMF (6 mL) was stirred at RT for 3 hours prior to addition of 5-(trifluoromethyl)pyridine-2-thiol (74.1 mg, 0.413 mmol). After stirring for 3 days, The reaction was diluted with aq. saturated NaHCO3 (15 ml) prior to extraction with EtOAc (20 ml). The EtOAc layer was dried over Na2SO4 and concentrated. The crude product was purified by prep-HPLC (Phenomenex, Luna 5 micron 30×250 mm, flow rate=30 ml/min., gradient=20% A to 100% B in 30 min., A=90% H2O/10% MeOH/0.1% TFA, B=10% H2O/90% MeOH/0.1% TFA). After concentration, the residue in EtOAc (30 ml) was converted to the free base by washing with aq. saturated NaHCO3 (30 ml). The EtOAc layer was dried over Na2SO4 and concentrated. To yield 1-(4-(2-hydroxy-2-methylpropoxy)-3-methylphenyl)-3-(5-(trifluoromethyl)pyridin-2-ylthio)pyrazin-2(1H)-one (22.76 mg, 14%) as off-white solid. MS (M+1=452). 1H NMR (500 MHz, chloroform-d) δ ppm 8.88 (1H, s), 7.89-7.99 (2H, m), 7.16-7.24 (3H, m), 7.07 (1H, d, J=4.40 Hz), 6.90 (1H, d, J=8.52 Hz), 3.84 (2H, s), 2.30 (3H, s), 1.39 (6H, s).

reactant | 3-hydroxy-1-(4-(2-hydroxy-2-methylpropoxy)-3-methylphenyl)pyrazin-2(1H)-one | 0.344 mmol, 100 mg | OC=1C(N(C=CN1)C1=CC(=C(C=C1)OCC(C)(C)O)C)=O | C15H18N2O4
reactant | PyBOP | 0.603 mmol, 314 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | EtN(iPr)2 | 1.033 mmol, 0.180 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 5-(trifluoromethyl)pyridine-2-thiol | 0.413 mmol, 74.1 mg | FC(C=1C=CC(=NC1)S)(F)F | C6H4F3NS
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | 15 ml | C(=O)(O)[O-].[Na+]
product | 1-(4-(2-hydroxy-2-methylpropoxy)-3-methylphenyl)-3-(5-(trifluoromethyl)pyridin-2-ylthio)pyrazin-2(1H)-one | 22.76 mg, 14% | OC(COC1=C(C=C(C=C1)N1C(C(=NC=C1)SC1=NC=C(C=C1)C(F)(F)F)=O)C)(C)C | C21H20F3N3O3S
